US07632837B2
Preparation of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-3-(cyclohexyloxy)-[1,2,4]triazolo[4,3-b]pyridazine
To a solution of cyclohexanol (0.5 g, 5 mmol) in anhydrous THF (1 mL) at room temperature was added freshly cut sodium metal (35 mg, 1.5 mmol). The reaction mixture was stirred at room temperature for 20 min, then at 60° C. for 30 min, and then allowed to cool to room temperature. Into this mixture was added 3-chloro-6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine (115 mg, 0.3 mmol), the resulting mixture was stirred at room temperature under argon for 16 h. The reaction was carefully quenched by addition of methanol, then diluted with EtOAc. The solution was washed with H2O, saturated aqueous NaCl, dried (Na2SO4), filtered and concentrated. The obtained residue was purified using a silica gel cartridge (12 g) eluting with a gradient of EtOAc (0-40%) in hexanes to afford 10 mg (7.6%) of the title compound as a pale-yellow solid. HPLC/MS (method A): retention time=4.06 min, (M+H)+=439.1. 1H NMR (CDCl3, 400 MHz): δ 7.84 (s, 1H), 7.46 (dd, J=5.62, 3.67 Hz, 1H), 7.32-7.37 (m, 2H), 7.25-7.30 (m, 1H), 7.20 (d, J=8.56 Hz, 2H), 7.03-7.08 (m, 2H), 5.21-5.29 (m, 1H), 2.28 (d, J=12.96 Hz, 2H), 1.88 (d, J=4.40 Hz, 2H), 1.60-1.80 (m, 3H), 1.45-1.52 (m, 2H), 1.20-1.40(m, 1H).

reactant | cyclohexanol | 5 mmol, 0.5 g | C1(CCCCC1)O | C6H12O
reactant | sodium | 1.5 mmol, 35 mg | [Na] | Na
reactant | 3-chloro-6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.3 mmol, 115 mg | ClC1=NN=C2N1N=C(C(=C2)C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C17H9Cl3N4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-3-(cyclohexyloxy)-[1,2,4]triazolo[4,3-b]pyridazine | 10 mg, 7.6% | ClC1=C(C=CC=C1)C=1C(=CC=2N(N1)C(=NN2)OC2CCCCC2)C2=CC=C(C=C2)Cl | C23H20Cl2N4O
